US06187945B1
m-Cyanobenzylamine (13.2 g), sodium nitrite (10.4 g), and dimethylformamide (100 ml) were mixed together, and the mixture was vigorously stirred at room temperature. Trifluoroacetic acid (22.8 g) was added dropwise to the mixture over one hour. After completion of addition, the mixture was further allowed to react at 100° C. for one hour. For the subsequent process, the procedure of Example 1 was repeated, to thereby obtain 6.9 g of m-cyanobenzyl alcohol (bp. 128-130° C./400 Pa) (yield 52%). The purity of the product was 98%.

reactant | m-Cyanobenzylamine | 13.2 g | C(#N)C=1C=C(CN)C=CC1 | C8H8N2
reactant | sodium nitrite | 10.4 g | N(=O)[O-].[Na+]
reactant | Trifluoroacetic acid | 22.8 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | m-cyanobenzyl alcohol | 6.9 g, yield 52% | C(#N)C=1C=C(CO)C=CC1 | C8H7NO
